US07056917B2
(A) 4-Isopropyl-1,3-thiazole-2-carbaldehyde
(4-Isopropyl-1,3-thiazol-2-yl)methanol (5.20 g, 33.0 mmol) was dissolved in methylene chloride (100 ml), added with pyridinium dichromate (14.9 g, 39.7 mmol), and stirred at room temperature for 19 hours stirred. After insoluble solids were removed, the reaction solution was evaporated, and the residue was purified by silica gel column chromatography (chloroform) to obtain the title compound (3.32 g, 65%).

reactant | (4-Isopropyl-1,3-thiazol-2-yl)methanol | 33.0 mmol, 5.20 g | C(C)(C)C=1N=C(SC1)CO | C7H11NOS
reactant | pyridinium dichromate | 39.7 mmol, 14.9 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Isopropyl-1,3-thiazole-2-carbaldehyde | 3.32 g, 65% | C(C)(C)C=1N=C(SC1)C=O | C7H9NOS
